US04015011
5.2 gm of 1-(3'-nitro-phenyl)-2-formylamino-propane was hydrogenated in methanol in the presence of Raney nickel at atmospheric pressure and room temperature. Thereafter, the catalyst was filtered off, the solvent was evaporated from the filtrate, and the residue was chromatographed on a silicagel column, using methanol/chloroform (2:8) as the flow agent. The eluate was evaporated, and the residue was recrystallized from ethyl acetate, yielding 1-(3'-aminophenyl)-2-formylamino-propane which had a melting point of 107° -108° C.

reactant | 1-(3'-nitro-phenyl)-2-formylamino-propane | 5.2 gm | [N+](=O)([O-])C=1C=C(C=CC1)CC(C)NC=O | C10H12N2O3
solvent | methanol | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | 1-(3'-aminophenyl)-2-formylamino-propane | NC=1C=C(C=CC1)CC(C)NC=O | C10H14N2O
